US05811425
1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3 acetamide (2).
Indomethacin (10 g; 0.028 mol) in 150 mL THF was treated with triethylamine (4.8 mL; 0.035 mol) and cooled to -10° C. Isobutylchloroformate (4.4 mL; 0.033 mol) was added and the reaction was stirred at -10° C. for 10 min. The ice bath was removed and NH3 was bubbled through the solution for 15 min. The resulting pale yellow solid was collected, slurried in CH2Cl2 and filtered again. The product was used with no further purification.

reactant | Indomethacin | 0.028 mol, 10 g | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | triethylamine | 0.035 mol, 4.8 mL | C(C)N(CC)CC | C6H15N
reactant | Isobutylchloroformate | 0.033 mol, 4.4 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3 acetamide | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)N)C)C=C1 | C19H17ClN2O3
